US04396542
(4S,5S)-4,5-dibenzyloxymethyl-2-phenyl-1,3-dioxolan: flow-chart 2 , formula XVII [X' and X"=φ-CH2 -]
15 g (71.4 mMol) (4S,5S)-4,5-dihydroxymethyl-2-phenyl-1,3-dioxolan are rendered completely anhydrous by evaporating 2× with 300 ml toluene and the oil remaining in the reaction vessel is dissolved in 150 ml toluene, 30 g powdered KOH (535 mMol) and 71.5 g (418 mMol) benzyl bromide are added and the reaction mixture stirred for 15 hours at 80° C. The mixture is cooled, the remaining toluene-phase decanted, and the inorganic component removed from the residual phase by stirring 2× with 200 ml toluene and decanting. The combined toluene phases are filtered through talc, evaporated and the remaining oil filtered fraction-wise through 2 kg silica gel 60 using methylene chloride as solvent. Fractions containing benzyl bromide are disposed of. The title compound is obtained as a light yellow fluid with a rotation of [α]D20 =+10.1 (±1)° (c=1.4 in chloroform).

reactant | (4S,5S)-4,5-dihydroxymethyl-2-phenyl-1,3-dioxolan | 71.4 mMol, 15 g | OC[C@@H]1OC(O[C@H]1CO)C1=CC=CC=C1 | C11H14O4
reactant | KOH | 535 mMol, 30 g | [OH-].[K+]
reactant | benzyl bromide | 418 mMol, 71.5 g | C(C1=CC=CC=C1)Br | C7H7Br
product | (4S,5S)-4,5-dibenzyloxymethyl-2-phenyl-1,3-dioxolan | C(C1=CC=CC=C1)OC[C@@H]1OC(O[C@H]1COCC1=CC=CC=C1)C1=CC=CC=C1 | C25H26O4
